US09278944B2
To 1-[1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-3-yl]ethanone (3.14 g) was added trifluoroacetic acid (20 mL), and the mixture was heated to reflux for 2 days. The reaction solution was concentrated under reduced pressure. The resulting residue was diluted with ethyl acetate, and then sequentially washed with aqueous saturated sodium hydrogen carbonate solution and saturated saline, dried over magnesium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=95/5→7/3) to give 1-(1H-pyrazolo[3,4-b]pyridin-3-yl)ethanone) [REx(103-1)] (1.73 g) as a pale yellow powder.

reactant | 1-[1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-3-yl]ethanone | 3.14 g | COC1=CC=C(CN2N=C(C=3C2=NC=CC3)C(C)=O)C=C1 | C16H15N3O2
solvent | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(1H-pyrazolo[3,4-b]pyridin-3-yl)ethanone | N1N=C(C=2C1=NC=CC2)C(C)=O | C8H7N3O
